US04946839
A solution of pyridine (4.0 g., 0.050 mol) and NaBH4 (2.0 g, 0.026 mol) in 20 ml of absolute ethanol is treated with benzyl chloroformate (8.5 g, 0.05 mol) over about 1 hour followed by stirring for 1.5 hour at -78° C. The mixture is added to ice-water and extracted with ether, and the extract is washed with 3% HCl solution and 3% NaOH solution. After the extract is dried and evaporated, 8.0 g of N-benzyloxycarbonyl1,2-dihydropyridine is obtained in 74% yield. A 5% solution of N-benzyloxycarbonyl-1,2-dihydropyridine is then irradiated using a Rayonet photochemical reactor (RP-300 lamps) until NMR spectrum shows consumption of the starting materials. The solvent is evaporated to give the crude product, N-(benzyloxycarbonyl)-2-azabicyclo[2.2.0]hex-5-ene (VIII). Pure (VIII) is obtained by passing the crude product through basic alumina with ether. (VIII) is then reacted with ozone in methanol at -78° C. followed by reaction with peroxyacetic acid to form cis-N-(benzyloxycarbonyl)-azetidine-2,3- dicarboxylic acid.

reactant | pyridine | 0.050 mol, 4.0 g | N1=CC=CC=C1 | C5H5N
reactant | NaBH4 | 0.026 mol, 2.0 g | [BH4-].[Na+]
reactant | benzyl chloroformate | 0.05 mol, 8.5 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | N-benzyloxycarbonyl1,2-dihydropyridine | 8.0 g, 74% yield | C(C1=CC=CC=C1)OC(=O)N1CC=CC=C1 | C13H13NO2
